US04929540
In a stream of nitrogen, 12.4 g of bis(2-aminophenyl)disulfide was added to 100 ml of acetonitrile, and further added thereto was 18.6 g of α-bromo-α-methylpropionic acid chloride. The resulting mixture was heated under reflux for 3 hours. After removal of acetonitrile, 100 ml of ethylene chloride was added to the reaction product, and gradually added thereto was 28 g of anhydrous aluminium chloride at room temperature. After the conclusion of the additional materials, the mixture was heated for 2 hours at 40° C. with vigorous stirring. The reaction mixture was poured into 200 g of ice-cold water containing concentrated hydrochloric acid in order to decompose the aluminium chloride. After the decomposition, 100 ml of chloroform was added to the reaction mixture, and the organic phase was washed with saturated sodium chloride solution three times. The chloroform-ethylene chloride phase was removed, and concentrated to dryness. The product was purified by column chromatography on silica gel to obtain 10.6 g of bis(2-oxo-3,3-di-methyl-7-indolinyl)disulfide.

reactant | bis(2-aminophenyl)disulfide | 12.4 g | NC1=C(C=CC=C1)SSC1=C(C=CC=C1)N | C12H12N2S2
reactant | α-bromo-α-methylpropionic acid chloride | 18.6 g | BrC(C(=O)Cl)(C)C | C4H6BrClO
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | bis(2-oxo-3,3-di-methyl-7-indolinyl)disulfide | 10.6 g | O=C1NC2=C(C=CC=C2C1(C)C)SSC=1C=CC=C2C(C(NC12)=O)(C)C | C20H20N2O2S2
